Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5][H:6],1.95901877244
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.78342801675
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][H:11],5.2267986296
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2],0.824888206989
[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-4.399360301230001
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1],4.75137426453
[H:1][C:2].[O:3]=[C:4][H:5]>>[H:1][C:2][O:3][C:4][H:5],-1.94834320599
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:1][O:2],2.65264205935
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6](=[O:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6](=[O:7])[H:8],-3.18580332745
[H:1][C:2]([H:3])=[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],7.610031303049999
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-1.59544831419
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][H:4],1.45747202991
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-0.737846986849
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9].[H:1][C:2],10.5391539568
[H:1]/[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],2.53581137777
[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2],6.63436210733
[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.405980027409999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6],1.5824616241999998
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.13259716794
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][H:12].[H:1][C:2][O:3][C:4][H:5],8.30913527219
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8][H:9]>>[C:4]([H:5])#[C:6][O:7][C:8][H:9].[O:1]=[C:2][H:3],1.8877987181
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-5.20006361764
[H:10].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.89564337667
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[O:7][H:8])[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8].[O:9][H:10],3.40317629848
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][H:9].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-3.58855372906
[H:1][O:2][C:3]1=[C:4]([H:5])[O:6][C:7]1=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3](=[C:4][H:5])[C:7](=[O:6])[C:8]([H:9])[H:10],1.80111086697
[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.15071435976
[H:1][O:2][O:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.58008157604
